US09447002B2
Synthesis of 2,6-di-tert-butyl-4-(3-phenylprop-2-ynylidene)cyclohexa-2,5-dienone (7-Phenylacetyleno Quinone Methide (7-Phace-QM))
In lieu of piperidine, pyrrolidine was used with 3,5-di-tert-butyl-4-hydroxybenzaldehyde to synthesize the subsequent intermediate 7-pyrrolidinyl quinone methide following the procedure in Example 1 (d). The remainder of the one-pot procedure towards 7-Phace-QM is as detailed in Example 1 (d).

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
product | 2,6-di-tert-butyl-4-(3-phenylprop-2-ynylidene)cyclohexa-2,5-dienone | C(C)(C)(C)C=1C(C(=CC(C1)=CC#CC1=CC=CC=C1)C(C)(C)C)=O | C23H26O
